US08563565B2
Synthesis of (6-methoxy-2,4-dimethylpyridin-3-yl)boronic acid
3-bromo-6-methoxy-2,4-dimethylpyridine (150 mg) was added to THF (3 mL). The solution was cooled to −78° C., and n-butyllithium (1.63 M solution in n-hexane, 0.468 mL) was added, followed by stirring at the same temperature for 30 minutes. Trimethyl borate (0.108 mL) was added to the reaction mixture, and the mixture was stirred at −78° C. for 10 minutes and at room temperature for 50 minutes. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the reaction mixture was concentrated under reduced pressure. THF was distilled off. The resulting residue was filtered. The solid collected by filtration was washed with water and n-heptane to give the title compound (41 mg).

reactant | 3-bromo-6-methoxy-2,4-dimethylpyridine | 150 mg | BrC=1C(=NC(=CC1C)OC)C | C8H10BrNO
reactant | n-butyllithium | 1.63 M, 0.468 mL | C(CCC)[Li]
reactant | Trimethyl borate | 0.108 mL | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (6-methoxy-2,4-dimethylpyridin-3-yl)boronic acid | 41 mg | COC1=CC(=C(C(=N1)C)B(O)O)C | C8H12BNO3
